US06855722B2
a) 2-[3-(1H-Indol-5-yl)-propyl]-[1,8]naphthyridine
Tetrabutylammonium fluoride [1.0 M in THF] (5.10 mL, 5.10 mmol) was added to a solution of 2-[3-(1-triisopropylsilanyl-1H-indol-5-yl)-propyl]-[1,8]naphthyridine (1.14 g, 2.57 mmol) in THF (20 mL) at room temperature and stirred for 1 h. The solvent was removed and the resulting crude product was purified via column chromatography on silica gel, eluting with ethyl acetate/hexane (2/1) to give the title product (100% yield). 1H NMR (CDCl3) δ 9.08 (dd, J=2.0, 4.3 Hz, 1H), 8.28 (br, 1H), 8.14 (dd, J=2.0, 8.1, 1H), 8.07 (d, J=8.4 Hz, 1H), 7.45 (m, 2H), 7.36 (d, J=8.3, 1H), 731 (d, J=8.3 Hz, 1H), 7.18 (t, J=2.8 Hz, 1H), 7.05 (dd, J=1.6, 8.3 Hz, 1H), 6.47 (m, 1H), 3.10 (t, J=7.8 Hz, 2H), 2.84 (t, J=7.7 Hz, 2H), 2.28 (m, 2H). Mass Spectrum (LCMS, ESI) calculated for C19H18N3 288.2 (M+H); found 288.2.

reactant | Tetrabutylammonium fluoride | 5.10 mmol, 1.0 M, 5.10 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[3-(1-triisopropylsilanyl-1H-indol-5-yl)-propyl]-[1,8]naphthyridine | 2.57 mmol, 1.14 g | C(C)(C)[Si](N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1)(C(C)C)C(C)C | C28H37N3Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[3-(1H-Indol-5-yl)-propyl]-[1,8]naphthyridine | 100% yield | N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1 | C19H17N3
